US04425333
(2S)-N-[[1-(S-Benzoyl-3-mercaptopropanoyl)-5-(2-hydroxyphenyl)-2-pyrrolidinyl]carbonyl]phenylalanine t-butyl ester
To the solution of 1.43 g of 1-(S-benzoyl-3-mercaptopropanoyl)-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid (mp 89°-92° C. (dec.); [α]D25 +47.4° (c=1.0, methanol)) and 0.3 g of N-methylmorpholine dissolved in 30 ml of dry THF 0.41 g of isobutyl chlorocarbonate is added at a temperature of -15° to -10° C. After stirring it for 30 minutes, the solution of 0.77 g of L-phenylalanine t-butyl ester hydrochloride and 0.3 g of triethylamine dissolved in 10 ml of aqueous THF is added to it. After stirring the mixture under ice-cooling for 30 minutes and at room temperature for an additional 30 minutes, and then removing THF in vacuo, the mixture is extracted with ethyl acetate. The organic layer is washed with saturated aqueous sodium bicarbonate solution, water and saturated aqueous sodium chloride solution, in order, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The residue is purified by silica gel column chromatography to give 1.5 g (83%) of the titled compound.

reactant | 1-(S-benzoyl-3-mercaptopropanoyl)-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid | 1.43 g | C(C1=CC=CC=C1)(=O)SCCC(=O)N1C(CCC1C1=C(C=CC=C1)O)C(=O)O | C21H21NO5S
reactant | N-methylmorpholine | 0.3 g | CN1CCOCC1 | C5H11NO
reactant | L-phenylalanine t-butyl ester hydrochloride | 0.77 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | triethylamine | 0.3 g | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml, 0.41 g | C1CCOC1 | C4H8O
solvent | isobutyl chlorocarbonate | C(OCC(C)C)(=O)Cl | C5H9ClO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (2S)-N-[[1-(S-Benzoyl-3-mercaptopropanoyl)-5-(2-hydroxyphenyl)-2-pyrrolidinyl]carbonyl]phenylalanine t-butyl ester | 1.5 g, 83% | C(C)(C)(C)OC([C@@H](NC(=O)[C@H]1N(C(CC1)C1=C(C=CC=C1)O)C(CCSC(C1=CC=CC=C1)=O)=O)CC1=CC=CC=C1)=O | C34H38N2O6S
